US07371777B2
2-(3-{[(2-Chloro-4-propoxybenzoyl)amino]methyl}-4-methoxybenzyl)tetrahydro-2-furancarboxylic acid
To a solution of 0.091 g of methyl 2-[3-(ammoniomethyl)-4-methoxybenzyl]tetrahydro-2-furancarboxylate chloride and 0.074 g of 2-chloro-4-propoxybenzoic acid in 2.5 ml of N,N-dimethylformamide were added 0.119 μl of triethylamine and 0.119 μl of diethyl cyanophosphonate, and the mixture was stirred at room temperature for 4 hours. 10 ml of water and 10 ml of ethyl acetate were added, and the organic layer was evaporated. The residue was dissolved in 2.5 ml of ethanol, 0.3 ml of 5N sodium hydroxide was added, and the mixture was stirred at room temperature for 14 hours. The reaction mixture was concentrated, and 5 ml of ethyl acetate, 2.5 ml of water and 0.5 ml of 5N hydrochloric acid were added. The organic layer was concentrated, and the residue was purified by HPLC, to give 0.081 g of the title compound as a white solid.

reactant | methyl 2-[3-(ammoniomethyl)-4-methoxybenzyl]tetrahydro-2-furancarboxylate chloride | 0.091 g | [Cl-].[NH3+]CC=1C=C(CC2(OCCC2)C(=O)OC)C=CC1OC
reactant | 2-chloro-4-propoxybenzoic acid | 0.074 g | ClC1=C(C(=O)O)C=CC(=C1)OCCC | C10H11ClO3
reactant | triethylamine | 0.119 μl | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphonate | 0.119 μl | C(#N)P(OCC)(OCC)=O | C5H10NO3P
solvent | N,N-dimethylformamide | 2.5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 10 ml | O | H2O
product | 2-(3-{[(2-Chloro-4-propoxybenzoyl)amino]methyl}-4-methoxybenzyl)tetrahydro-2-furancarboxylic acid | 0.081 g | ClC1=C(C(=O)NCC=2C=C(CC3(OCCC3)C(=O)O)C=CC2OC)C=CC(=C1)OCCC | C24H28ClNO6
